US07872003B2
Preparation of 3-[6-(4-Methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-phenol (9)
To a solution of 6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-2-[3-(1,1,2,2-tetramethyl-propylsilanyloxy)-phenyl]-thieno[3,2-d]pyrimidine (6.95 g, 12.89 mmol) in THF (100 mL) cooled to 0° C. was added a 1.0 M solution of tetrabutyl ammonium fluoride in THF (14.2 mL, 1.1 eq.). After 30 minutes the solvent was removed in vacuo and the residue was purified using flash chromatography (silica, 8% methanol in dichloromethane) and then triturated using ethyl acetate/methanol to yield the title compound as a white solid (4.62 g, 85%).

reactant | 6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-2-[3-(1,1,2,2-tetramethyl-propylsilanyloxy)-phenyl]-thieno[3,2-d]pyrimidine | 12.89 mmol, 6.95 g | CN1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=CC(=CC=C1)O[SiH2]C(C(C)(C)C)(C)C | C29H43N5O2SSi
reactant | tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 14.2 mL, 1.1 eq. | C1CCOC1 | C4H8O
product | 3-[6-(4-Methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-phenol | 4.62 g, 85% | CN1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C=1C=C(C=CC1)O | C22H27N5O2S
